US05962458
A mixture of 4-(4-chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline (300 mg, 0.94 mmol), (prepared as described for the starting material in Example 15), 1-(2-chloroethyl)-1,2-dihydro-2-pyridone (175 mg, 1.11 mmol), (J. Am. Chem. Soc. 1951, 73, 3635), and potassium carbonate (260 mg, 1.9 mmol) in DMF (30 ml) was heated at 80° C. for 3 hours, allowed to cool to ambient temperature and stirred for a further 18 hours. The mixture was diluted with water and extracted with ethyl acetate. The extract was washed with water, dried (MgSO4) and the solvent removed by evaporation. The residue was purified by column chromatography eluting with methylene chloride/methanol/triethylamine mixtures (100/0/0 increasing to 70/30/0.5) to give 4-(4-chloro-2-fluoroanilino)-6-methoxy-7-[2-(2-oxo-1,2-dihydro-1-pyridyl)ethoxy]quinazoline (50 mg, 12%).

reactant | 4-(4-chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline | 0.94 mmol, 300 mg | ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)O)C=C1)F | C15H11ClFN3O2
reactant | 1-(2-chloroethyl)-1,2-dihydro-2-pyridone | 1.11 mmol, 175 mg | ClCCN1C(C=CC=C1)=O | C7H8ClNO
reactant | potassium carbonate | 1.9 mmol, 260 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-(4-chloro-2-fluoroanilino)-6-methoxy-7-[2-(2-oxo-1,2-dihydro-1-pyridyl)ethoxy]quinazoline | 50 mg, 12% | ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCCN2C(C=CC=C2)=O)C=C1)F | C22H18ClFN4O3
